US09315507B2
A suspension of 2-(4-(Adamantan-1-yl)phenoxy)-1-(4-methylpiperazin-1-yl)ethanone (0.2 g, 0.50 mmol), prepared from example 3, and methyl iodide (0.286 g, 2.01 mmol) in diethyl ether (2 mL) was stirred at room temperature overnight. The reaction mixture was filtered and dried in vacuum oven at 50° C. to afford a 4-(2-(4-(adamantan-1-yl)phenoxy)acetyl)-1,1-dimethylpiperazin-1-ium iodide as a white solid (0.27 g, 97.5% yield).

reactant | 2-(4-(Adamantan-1-yl)phenoxy)-1-(4-methylpiperazin-1-yl)ethanone | 0.50 mmol, 0.2 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)N3CCN(CC3)C)C=C2 | C23H32N2O2
reactant | methyl iodide | 2.01 mmol, 0.286 g | CI | CH3I
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | 4-(2-(4-(adamantan-1-yl)phenoxy)acetyl)-1,1-dimethylpiperazin-1-ium iodide | 0.27 g, 97.5% yield | [I-].C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)N3CC[N+](CC3)(C)C)C=C2 | InChI=1S/C24H35N2O2.HI/c1-26(2)9-7-25(8-10-26)23(27)17-28-22-5-3-21(4-6-22)24-14-18-11-19(15-24)13-20(12-18)16-24;/h3-6,18-20H,7-17H2,1-2H3;1H/q+1;/p-1
